US07491747B2
Preparation 2: 3-(4-bromophenoxy)dihydrofuran-2-one
Sodium (23 g, 1 mol) is added in pieces to a reactor containing ethanol (1 l). The temperature of the reaction medium is stabilised at 70° C. (exothermic) before adding a solution of 4-bromophenol (173 g, 1 mol) in ethanol (150 ml). After cooling to room temperature, α-bromo-γ-butyrolactone (83 ml, 1 mol) is added slowly. The reaction medium is stirred for ten hours and is then treated by adding 1N hydrochloric acid solution (600 ml). The aqueous phase is extracted with ethyl acetate (2×1 l) and the combined organic phases are washed with water (1 l), dried over sodium sulphate, filtered and concentrated. The residue obtained is recrystallised from isopropanol (2.2 l) to give the expected compound in the form of a white powder (80.1 g, 31%).

reactant | Sodium | 1 mol, 23 g | [Na] | Na
reactant | 4-bromophenol | 1 mol, 173 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | α-bromo-γ-butyrolactone | 1 mol, 83 ml | BrC1C(=O)OCC1 | C4H5BrO2
reactant | hydrochloric acid | 1N, 600 ml | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | ethanol | 1 l | C(C)O | C2H6O
product | 3-(4-bromophenoxy)dihydrofuran-2-one | BrC1=CC=C(OC2C(OCC2)=O)C=C1 | C10H9BrO3
